US07910592B2
To a solution of a mixture of methyl 6-aminoindane-5-carboxylate and methyl 5-aminoindane-4-carboxylate (760 mg, 3.98 mmol), and pyridine (805 uL, 9.95 mmol) in CH2Cl2 (8 mL) at 0° C. under N2 was added isopropyl chloroformate (1 M in toluene) (3.98 mL, 3.98 mmol). The resulting mixture was stirred at room temperature for 16 h. 1M HCl was added to the reaction mixture and the organic layer was separated. The aqueous layer was extracted with CH2Cl2 (2×). The combined organic layers were dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography (Si, hexanes/EtOAc) to afford methyl 6-[(isopropoxycarbonyl)amino]indane-5-carboxylate. LCMS calc.=300.1; found=299.9 (M+Na)+. 1H NMR (500 MHz, CDCl3) δ 10.43 (s, 1H); 8.34 (s, 1H); 7.86 (s, 1H); 5.06-5.00 (m, 1H); 3.92 (s, 3H); 2.96 (t, J=7.5 Hz, 2H); 2.88 (t, J=7.4 Hz, 2H); 2.13-2.07 (m, 2H); 1.33 (d, J=6.2 Hz, 6H). Methyl 5-[(isopropoxycarbonyl)amino]indane-4-carboxylate was isolated as a by-product. LCMS calc.=300.1; found=299.9 (M+Na)+. 1H NMR (500 MHz, CDCl3) a 10.07 (s, 1H); 8.21 (d, J=8.4 Hz, 1H); 7.36 (d, J=8.4 Hz, 1H); 5.06-5.00 (m, 1H); 3.93 (s, 3H); 3.19 (t, J=7.5 Hz, 2H); 2.89 (t, J=7.5 Hz, 2H); 2.08-2.02 (m, 2H); 1.32 (d, J=6.2 Hz, 6H).

reactant | methyl 6-aminoindane-5-carboxylate | NC1=C(C=C2CCCC2=C1)C(=O)OC | C11H13NO2
reactant | methyl 5-aminoindane-4-carboxylate | 3.98 mmol, 760 mg | NC1=C(C=2CCCC2C=C1)C(=O)OC | C11H13NO2
reactant | pyridine | 9.95 mmol, 805 uL | N1=CC=CC=C1 | C5H5N
reactant | isopropyl chloroformate | 3.98 mmol, 1 M, 3.98 mL | ClC(=O)OC(C)C | C4H7ClO2
reactant | HCl | 1M | Cl | ClH
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | methyl 6-[(isopropoxycarbonyl)amino]indane-5-carboxylate | C(C)(C)OC(=O)NC1=C(C=C2CCCC2=C1)C(=O)OC | C15H19NO4
